US06432993B1
t-Butyl N-methyl-N-[2-nitro-5-(4-trifluoromethylphenoxy)phenyl]carbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 4-trifluoromethylphenol (3.0 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (4.3 g), sodium hydride (55 wt. %, 1.1 g) and anhydrous N,N-dimethylformamide (70 ml) and the reaction mixture was purified to give the title compound (1.26 g)

reactant | 4-trifluoromethylphenol | 3.0 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 4.3 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 1.1 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-methyl-N-[2-nitro-5-(4-trifluoromethylphenoxy)phenyl]carbamate | 1.26 g | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)OC1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C19H19F3N2O5
